US06441177B1
A suspension of 10 g of (E)-[4-(4-bromo-but-2-enyloxy)-phenyl]-(4-bromo-phenyl)-methanone, 7.47 g of N-cyclopropyl-2,2,2-trifluoro-acetamide, 6.7 g of potassium carbonate and 0.55 g of benzyltriethylammonium bromide in 200 ml of acetonitrile is heated to boiling while stirring for 7 h. After cooling to room temperature the suspension is filtered. The filtrate is concentrated and the residue is dissolved in a mixture of 500 ml of melthylene chloride and 50 ml of methanol and stirred with 50 g of a strongly acidic and strongly basic ion exchanger, subsequently filtered and washed with methylene chloride to give two phases. The organic phase is dried and concentrated. 11.5 g of N-[4-[4-(4-bromo-benzoyl)-phenoxy]-but-2-enyl]-N-cyclopropyl-2,2,2-trifluoroacetamide are obtained as a yellowish solid, MS: m/e 412 (M+-CF3, 1Br).

reactant | (E)-[4-(4-bromo-but-2-enyloxy)-phenyl]-(4-bromo-phenyl)-methanone | 10 g | BrC/C=C/COC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)Br | C17H14Br2O2
reactant | N-cyclopropyl-2,2,2-trifluoro-acetamide | 7.47 g | C1(CC1)NC(C(F)(F)F)=O | C5H6F3NO
reactant | potassium carbonate | 6.7 g | C([O-])([O-])=O.[K+].[K+]
catalyst | benzyltriethylammonium bromide | 0.55 g | [Br-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | N-[4-[4-(4-bromo-benzoyl)-phenoxy]-but-2-enyl]-N-cyclopropyl-2,2,2-trifluoroacetamide | 11.5 g | BrC1=CC=C(C(=O)C2=CC=C(OCC=CCN(C(C(F)(F)F)=O)C3CC3)C=C2)C=C1 | C22H19BrF3NO3
